US08039495B2
A solution of 3-(4-bromo-2-fluoro-phenoxymethyl)-benzoic acid (5.21 g, 16.02 mmol), N-methyl glycine ethyl ester hydrochloride (4.9 g, 32.05 mmol), DIEA (14 mL, 80.01 mmol), EDCI (6.1 g, 32.05 mmol) and HOAT (4.4 g, 32.05 mmol) in methylene chloride (300 mL) was stirred at room temperature for 12 h. The mixture was evaporated and the residue was purified by column (0-50% EtOAc in hexane) to give {{[3-(4-bromo-2-fluoro-phenoxymethyl)-benzoyl]-methyl-amino}-acetic acid ethyl ester, 4.5 g (66%). LC-MS (ES) calculated for C19H19BrFNO4, 423; found m/z 424 [M+H]+.

reactant | 3-(4-bromo-2-fluoro-phenoxymethyl)-benzoic acid | 16.02 mmol, 5.21 g | BrC1=CC(=C(OCC=2C=C(C(=O)O)C=CC2)C=C1)F | C14H10BrFO3
reactant | N-methyl glycine ethyl ester hydrochloride | 32.05 mmol, 4.9 g | Cl.C(C)OC(CNC)=O
reactant | DIEA | 80.01 mmol, 14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 32.05 mmol, 6.1 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 32.05 mmol, 4.4 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | {[3-(4-bromo-2-fluoro-phenoxymethyl)-benzoyl]-methyl-amino}-acetic acid ethyl ester | C(C)OC(CN(C)C(C1=CC(=CC=C1)COC1=C(C=C(C=C1)Br)F)=O)=O | C19H19BrFNO4
